US09340538B2
Step B: Ethyl 6-(bromomethyl)-4-(2-chloro-4-fluorophenyl)-1-methyl-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate
Ethyl 4-(2-chloro-4-fluorophenyl)-1,6-dimethyl-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate (0.4 g, 1.02 mmol) was reacted with NBS (0.2 g, 1.12 mmol) according to the procedure as described in Example 1, Step B to give the title compound as yellow oil (0.19 g, 40%). The compound was characterized by the following spectroscopic data:

reactant | Ethyl 4-(2-chloro-4-fluorophenyl)-1,6-dimethyl-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 1.02 mmol, 0.4 g | ClC1=C(C=CC(=C1)F)C1N=C(N(C(=C1C(=O)OCC)C)C)C=1SC=CN1 | C18H17ClFN3O2S
reactant | NBS | 1.12 mmol, 0.2 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
product | Ethyl 6-(bromomethyl)-4-(2-chloro-4-fluorophenyl)-1-methyl-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 0.19 g, 40% | BrCC1=C(C(N=C(N1C)C=1SC=CN1)C1=C(C=C(C=C1)F)Cl)C(=O)OCC | C18H16BrClFN3O2S
